US03951967
By replacing the 6-trifluoromethyl-7-sulfamoyl-1,2,4-benzothiadiazine-1,1-dioxide employed in Step A of Example 1 by an equivalent quantity of 6-methyl-7-sulfamoyl-1,2,4-benzothiadiazine-1,1-dioxide and then following substantially the same procedure described in Steps A and B of Example 1, there is obtained 6-methyl-7-mercapto-1,2,4-benzothiadiazine-1,1-dioxide.

reactant | 6-trifluoromethyl-7-sulfamoyl-1,2,4-benzothiadiazine-1,1-dioxide | FC(C=1C(=CC2=C(N=CNS2(=O)=O)C1)S(N)(=O)=O)(F)F | C8H6F3N3O4S2
reactant | 6-methyl-7-sulfamoyl-1,2,4-benzothiadiazine-1,1-dioxide | CC=1C(=CC2=C(N=CNS2(=O)=O)C1)S(N)(=O)=O | C8H9N3O4S2
product | 6-methyl-7-mercapto-1,2,4-benzothiadiazine-1,1-dioxide | CC=1C(=CC2=C(N=CNS2(=O)=O)C1)S | C8H8N2O2S2
